* SPICE3 file created from amplifier.ext - technology: scmos

.global Vdd Gnd

.subckt bias Vbp Vdd Vcn Vcp Gnd Vbn
R1 M3source Gnd 4k
M1001 Vdd Vbp Vcn Vdd pfet w=36u l=1.8u
M1002 a_45_n24# Vbp Vdd Vdd pfet w=36u l=1.8u
M1003 a_57_n24# Vbp a_45_n24# Vdd pfet w=36u l=1.8u
M1004 a_39_n158# Vbp a_57_n24# Vdd pfet w=36u l=1.8u
M1005 Vdd Vbp Vbp Vdd pfet w=36u l=1.8u
M1006 Vbn Vbp Vdd Vdd pfet w=36u l=1.8u
M1007 a_133_n24# a_122_n40# Vdd Vdd pfet w=36u l=1.8u
M1008 a_122_n40# a_122_n40# a_133_n24# Vdd pfet w=36u l=1.8u
M1009 a_133_n24# a_122_n40# a_122_n40# Vdd pfet w=36u l=1.8u
M1010 Vcp Vcp a_133_n24# Vdd pfet w=36u l=1.8u
M1011 a_33_n156# Vcn Vcn Gnd nfet w=36u l=1.8u
M1012 a_39_n158# a_39_n158# a_33_n156# Gnd nfet w=36u l=1.8u
M1013 a_33_n156# a_39_n158# a_39_n158# Gnd nfet w=36u l=1.8u
M1014 Gnd a_39_n158# a_33_n156# Gnd nfet w=36u l=1.8u
M1015 M3source Vbn Vbp Gnd nfet w=72u l=1.8u
M1016 Vbn Vbn Gnd Gnd nfet w=36u l=1.8u
M1017 a_133_n156# Vbn a_122_n40# Gnd nfet w=36u l=1.8u
M1018 a_145_n156# Vbn a_133_n156# Gnd nfet w=36u l=1.8u
M1019 Gnd Vbn a_145_n156# Gnd nfet w=36u l=1.8u
M1020 Vcp Vbn Gnd Gnd nfet w=36u l=1.8u
.ends

.subckt amp Vbp Vdd Vcn Vcp Gnd a_n63_0# Vbn a_n63_n129#
M1000 a_n75_0# Vbn Gnd Gnd nfet w=36u l=1.8u
M1001 a_n63_0# Vcn a_n75_0# Gnd nfet w=36u l=1.8u
M1002 a_n75_0# V+ a_n32_n129# Vdd pfet w=36u l=1.8u
M1003 a_8_n129# V+ a_n3_109# Gnd nfet w=36u l=1.8u
M1004 a_n3_109# Vcp a_n63_0# Vdd pfet w=36u l=1.8u
M1005 Vdd a_n63_n129# a_n3_109# Vdd pfet w=36u l=1.8u
M1006 a_n75_n129# Vbn Gnd Gnd nfet w=36u l=1.8u
M1007 a_n63_n129# Vcn a_n75_n129# Gnd nfet w=36u l=1.8u
M1008 a_n32_n129# Vbp Vdd Vdd pfet w=36u l=1.8u
M1009 a_n75_n129# V- a_n32_n129# Vdd pfet w=36u l=1.8u
M1010 a_8_n129# V- a_n3_n122# Gnd nfet w=36u l=1.8u
M1011 Gnd Vbn a_8_n129# Gnd nfet w=36u l=1.8u
M1012 a_n3_n122# Vcp a_n63_n129# Vdd pfet w=36u l=1.8u
M1013 Vdd a_n63_n129# a_n3_n122# Vdd pfet w=36u l=1.8u
.ends


* Top level circuit amplifier

Xbias_0 amp_0/Vbp amp_0/Vdd amp_0/Vcn amp_0/Vcp Gnd amp_0/Vbn bias
Xamp_0 amp_0/Vbp amp_0/Vdd amp_0/Vcn amp_0/Vcp Gnd a_179_n133# amp_0/Vbn a_n781_n137# amp
M1000 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1001 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1002 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1003 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1004 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1005 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1006 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1007 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1008 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1009 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1010 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1011 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1012 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1013 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1014 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1015 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1016 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1017 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1018 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1019 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1020 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1021 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1022 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1023 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1024 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1025 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1026 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1027 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1028 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1029 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1030 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1031 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1032 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1033 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1034 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1035 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1036 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1037 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1038 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1039 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1040 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1041 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1042 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1043 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1044 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1045 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1046 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1047 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1048 amp_0/Vdd a_n781_n137# Vout_not amp_0/Vdd pfet w=72u l=1.8u
M1049 Vout_not a_n781_n137# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1050 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1051 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1052 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1053 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1054 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1055 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1056 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1057 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1058 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1059 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1060 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1061 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1062 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1063 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1064 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1065 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1066 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1067 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1068 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1069 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1070 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1071 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1072 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1073 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1074 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1075 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1076 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1077 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1078 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1079 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1080 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1081 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1082 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1083 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1084 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1085 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1086 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1087 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1088 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1089 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1090 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1091 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1092 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1093 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1094 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1095 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1096 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1097 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1098 amp_0/Vdd a_179_n133# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1099 c_791_n128# a_179_n133# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1100 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1101 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1102 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1103 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1104 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1105 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1106 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1107 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1108 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1109 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1110 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1111 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1112 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1113 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1114 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1115 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1116 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1117 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1118 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1119 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1120 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1121 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1122 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1123 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1124 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1125 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1126 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1127 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1128 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1129 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1130 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1131 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1132 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1133 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1134 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1135 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1136 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1137 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1138 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1139 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1140 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1141 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1142 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1143 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1144 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1145 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1146 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1147 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1148 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1149 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1150 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1151 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1152 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1153 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1154 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1155 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1156 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1157 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1158 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1159 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1160 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1161 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1162 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1163 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1164 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1165 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1166 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1167 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1168 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1169 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1170 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1171 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1172 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1173 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1174 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1175 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1176 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1177 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1178 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1179 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1180 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1181 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1182 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1183 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1184 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1185 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1186 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1187 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1188 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1189 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1190 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1191 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1192 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1193 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1194 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1195 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1196 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1197 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1198 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1199 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
C0 a_179_n133# c_791_n128# 2031.7fF
C1 a_n781_n137# Vout_not 2031.5fF
.end
